US04515968
PREPARATION OF 4,5-DIMETHYL-2-PHENYL-1,3-DITHIOLANE
Into a 100 ml reaction flask equipped with thermometer, reflux condenser and magnetic stirring bar and hot plate with magnetic stirring apparatus is placed 0.5 grams of para-toluenesulfonic acid, 5.0 ml cyclohexane and 6.1 grams (0.05 moles) of 2,3-butanedithiol. Over a period of 25 minutes, 5.3 grams (0.05 moles) of benzaldehyde is added to the reaction mass with stirring. The reaction mass is then heated to reflux with stirring and refluxed for a period of 9.5 hours while taking off water of reaction. At the end of the refluxing period, the reaction mass is cooled to room temperature and transferred to a separatory funnel. The reaction mass is then washed with one 50 ml portion of saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and filtered. The resulting filtrate is distilled on a Microvigreux column yielding the following three fractions:

reactant | para-toluenesulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | cyclohexane | 5.0 ml | C1CCCCC1 | C6H12
reactant | 2,3-butanedithiol | 0.05 moles, 6.1 grams | CC(C(C)S)S | C4H10S2
reactant | benzaldehyde | 0.05 moles, 5.3 grams | C(C1=CC=CC=C1)=O | C7H6O
solvent | water | O | H2O
product | 4,5-DIMETHYL-2-PHENYL-1,3-DITHIOLANE | CC1SC(SC1C)C1=CC=CC=C1 | C11H14S2
